* C:\Users\NARENDRA\Desktop\Hardware_projects\Comparator\LTSPICE_Comparator.asc
* Generated by LTspice 26.0.2 for Windows.
X§U1 Vin Vref N002 0 output LT1001 ;§pnba In+)In-)V+)V-)OUT
V1 N001 0 12v
R1 Vref 0 10K tol=1 pwr=0.1
R2 N001 Vref 10K tol=1 pwr=0.1
R3 Vin 0 10K tol=1 pwr=0.1
R4 N001 Vin 11K tol=1 pwr=0.1
R5 P001 output 1k
D1 0 P001 D
V2 N002 0 12
.model D D
.lib C:\Users\NARENDRA\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 1
* Library below included based on ModelFile attribute of instance X§U1 (C:\Users\NARENDRA\AppData\Local\LTspice\lib\sym\OpAmps\LT1001.asy)
.lib LTC.lib
.backanno
.end
